US07601728B2
tert-Butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-7-cyano-2,3-dimethyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
A solution of tert-butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-7-cyano-3-methyl-2-(methylsulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (890 mg) in tetrahydrofuran (2 ml) was cooled to 0° C. and a 3M methylmagnesium bromide/diethyl ether solution (333 μl) was added dropwise thereto. After 30 minutes, the reaction solution was warmed to room temperature and stirred for 1 hour. A saturated aqueous ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate (100 ml). The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and then filtered and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain the title compound (64 mg).

reactant | tert-butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-7-cyano-3-methyl-2-(methylsulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 890 mg | ClC1=C(CN2C(=C(C=3N=C(N(C(C32)=O)C)S(=O)(=O)C)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=C(C=C1)F | C26H30ClFN6O5S
reactant | methylmagnesium bromide diethyl ether | 3M, 333 μl | C[Mg]Br.C(C)OCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | tert-Butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-7-cyano-2,3-dimethyl-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 64 mg | ClC1=C(CN2C(=C(C=3N=C(N(C(C32)=O)C)C)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=C(C=C1)F | C26H30ClFN6O3
